US05260316
Sodium Methoxide (280 mg, 5.1 mmol) and ethyl 2-[(N-3-phenylpropylamino)-sulfonyl]-3-methoxyphenylacetate (2.0 g, 5.1 mmol) are dissolved in toluene (200 mL) and the resulting solution is refluxed for 24 hours. An additional portion of sodium methoxide (60 mg, 1.1 mmol) is added and the reaction is once again refluxed for 24 hours. The reaction mixture is subsequently diluted with EtOAc (200 mL) and H2O (200 mL). The organic phase is then washed with saturated NaCl solution (2×200 mL), dried over MgSO4 and concentrated in vacuo to give 6-methoxy-2-(3-phenylpropyl)-3-oxo-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide.

reactant | Sodium Methoxide | 5.1 mmol, 280 mg | C[O-].[Na+]
reactant | ethyl 2-[(N-3-phenylpropylamino)-sulfonyl]-3-methoxyphenylacetate | 5.1 mmol, 2.0 g | C1(=CC=CC=C1)CCCNS(=O)(=O)C1=C(C=CC=C1OC)CC(=O)OCC | C20H25NO5S
reactant | sodium methoxide | 1.1 mmol, 60 mg | C[O-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 200 mL | O | H2O
product | 6-methoxy-2-(3-phenylpropyl)-3-oxo-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | COC=1C=CC2=C(CC(N(S2(=O)=O)CCCC2=CC=CC=C2)=O)C1 | C18H19NO4S
